US08183275B2
A mixture of 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanol (37.9 mmol), tert-butyl 2-iodobenzoate (11.5 g, 37.9 mmol), sodium carbonate (10 g, 94.8 mmol), 1,1′-bis(diphenylphosphino)ferroncene-palladium dichloride dichloromethane complex (1:1), DMF (170 mL) and water (22 mL) was heated at 80° C. under nitrogen overnight. The reaction mixture was cooled to RT, poured into water, and the product was extracted with EtOAc-Hexanes (1:1). The combined organic extracts were washed with water and brine, dried (Na2SO4) and concentrated, and the residue was purified on silica gel (Hexane/EtOAc, from 2/1 to 1/1) to afford tert-butyl 4′-(3-hydroxypropyl)biphenyl-2-carboxylate.

reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanol | 37.9 mmol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCO)C | C15H23BO3
reactant | tert-butyl 2-iodobenzoate | 37.9 mmol, 11.5 g | IC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C11H13IO2
reactant | sodium carbonate | 94.8 mmol, 10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 170 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 22 mL | O | H2O
product | tert-butyl 4′-(3-hydroxypropyl)biphenyl-2-carboxylate | OCCCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C20H24O3
